US08629147B2
2-[2-Hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-3H-benzoimidazole-5-carboxylic acid dimethylamide
To a solution of 2-[2-hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-3H-benzoimidazole-5-carboxylic acid (containing 1 equivalent of DMA, 44 mg, 0.1 mmol), dimethylamine in THF (0.5 mL, 2 M, 1 mmol) and HATU (38 mg, 0.1 mmol) in DMF (1.5 mL) was added DIEA (26 mg, 0.2 mmol). The reaction mixture was stirred at room temperature for 1 h and heated at 65° C. for 15 h, and then evaporated under reduced pressure. The residue was purified by chromatography (500:10:1 CH2Cl2/MeOH/28% aqueous NH4OH) to afford the title compound (31 mg, 80%). 1H NMR (MeOH-d4) δ 3.05 (s, 3H), 3.12 (s, 3H), 3.95 (s, 3H), 7.00-7.06 (2H), 7.31 (d, J=9 Hz, 1H), 7.52-7.75 (4H), 8.08-8.14 (2H). ESI-MS m/z 389.5 (MH+).

reactant | 2-[2-hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-3H-benzoimidazole-5-carboxylic acid | 0.1 mmol, 44 mg, 1 equivalent | OC1=C(C=C(C=C1)C=1C(=NC=CC1)OC)C=1NC2=C(N1)C=CC(=C2)C(=O)O | C20H15N3O4
reactant | dimethylamine | CNC | C2H7N
reactant | THF | 1 mmol, 2 M, 0.5 mL | C1CCOC1 | C4H8O
reactant | HATU | 0.1 mmol, 38 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.2 mmol, 26 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 2-[2-Hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-3H-benzoimidazole-5-carboxylic acid dimethylamide | 31 mg, 80% | CN(C(=O)C1=CC2=C(N=C(N2)C2=C(C=CC(=C2)C=2C(=NC=CC2)OC)O)C=C1)C | C22H20N4O3
